US07557112B2
After a mixture of 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylic acid, thionyl chloride and DMF was stirred for 1.5 hours at 75° C., the solvent was removed under reduced pressure and 1,4-dioxane was added. After the reaction solution was added to 28% ammonia water under ice cooling and stirred at room temperature for 3 hours, the solvent was removed under reduced pressure. MeOH and 1M NaOH aq were added to the obtained residue and stirred for 2.5 hours at 90° C. to give 2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one.

reactant | 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylic acid | ClC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)O)C=C1F)F | C12H6ClF2NO3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
product | 2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4(1H)-one | ClC1=CC(=C(C=C1F)C1=NC(C2=C(N1)C=CS2)=O)F | C12H5ClF2N2OS
